US08049016B2
Preparation of ethyl 2-(3-isobutyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate
Following the procedure as described in Preparation 13, making variations to replace bromomethyl-2,2-difluorocyclopropane with 1-bromo-2-methylpropane to react with ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate, the title compound was obtained in 98% yield: MS (ES+) m/z 311.8 (M+1).

reactant | bromomethyl-2,2-difluorocyclopropane | BrCC1C(C1)(F)F | C4H5BrF2
reactant | 1-bromo-2-methylpropane | BrCC(C)C | C4H9Br
reactant | ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(NCC1)=O | C10H13N3O3S
product | ethyl 2-(3-isobutyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate | 98% yield | C(C(C)C)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)OCC)=O | C14H21N3O3S
